US08283354B2
To 4-fluoro-1-{4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazin-1-yl}-4-methyl-pent-2-en-1-one (228 mg) in 1.5 mL of methanol was added Pd/C (34 mg, 10% weight Pd on carbon), and the reaction mixture was hydrogenated with a hydrogen balloon for 1 h. The resulting mixture was filtered through Celite, and the solvent was removed to give 4-fluoro-1-{4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazin-1-yl}-4-methyl-pentan-1-one. LC/MS: m/z 437.4 (M+H)+ at 2.86 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 4-fluoro-1-{4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazin-1-yl}-4-methyl-pent-2-en-1-one | 228 mg | FC(C=CC(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)(C)C | C25H27FN4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | Pd/C | 34 mg | [Pd] | Pd
product | 4-fluoro-1-{4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazin-1-yl}-4-methyl-pentan-1-one | FC(CCC(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)(C)C | C25H29FN4O2
